US06538152B1
To a solution of ethyl 2-[4-(2-hydroxyethyl)-2-(trifluoromethyl)phenoxy]acetate (224 mg) in dichloromethane (2 ml) were added triphenylphosphine (260 mg) and carbon tetrabromide (396 mg), and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into a saturated aqueous sodium bicarbonate solution and extracted with dichloromethane. The extract was washed with water and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent:dichloro-methane/hexane=1/1) gave ethyl 2-[4-(2-bromoethyl)-2-(trifluoromethyl)phenoxy]acetate (178 mg).

reactant | ethyl 2-[4-(2-hydroxyethyl)-2-(trifluoromethyl)phenoxy]acetate | 224 mg | OCCC1=CC(=C(OCC(=O)OCC)C=C1)C(F)(F)F | C13H15F3O4
reactant | triphenylphosphine | 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 396 mg | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | ethyl 2-[4-(2-bromoethyl)-2-(trifluoromethyl)phenoxy]acetate | 178 mg | BrCCC1=CC(=C(OCC(=O)OCC)C=C1)C(F)(F)F | C13H14BrF3O3
